US05741926
1-((2-Carboxyphenyl)amino)-2-((2-fluorophenyl)amino)ethane (Compound BN)
A solution of anthranilic acid (1.0 g, 7.3 mmol) in 1,2-dibromoethane (3 mL, 300 mol %) was heated to 100° C., and then o-fluoroaniline (2 mL, 200 mol %) was added. The reaction mixture was stirred at 100° C. for 10 h, then stirred at rt for 24 h. The reaction mixture was diluted with water and then extracted with EtOAc (3×100 mL). The EtOAc layer was washed with water, dried over MgSO4, filtered, and then concentrated. Purification by LPLC (EtOAc-hexane 1:5, then EtOAc-hexane 1:1) gave 0.17 g (9%) of the title compound which contained an impurity. The title compound was dissolved in small amount of hot EtOAc, hexane was added dropwise, and then the solution was allowed to stand at 0° C. until crystallization commenced, and then it was allowed to stand at rt for 15 h. Filtration and then drying in a vacuum oven several hours at 40°-45° C. gave 70 mg (3.5%) of the title compound: 1H NMR (CDCl3) δ8.00 (d, 1H, J=8, NH), 7.42 (t, 2H, J=6.8), 7.05-6.97 (m, 2H), 6.80-6.65 (m, 4H), 3.55 (d, 2H, J=4.8), 3.51 (d, 2H, J=4); 13C NMR (CDCl3) δ173.37, 151.72 (d, J=238), 151.38, 135.63, 132.83, 124.60 (d, J=3.8), 117.27 (d, J=6.8), 115.30, 114.73, 114.54, 112.32, 111.33, 109.25, 42.75, 42.12; MS (EI, m/z) 274 (M+). HRMS (EI) calcd for C15H15N2O2F 274.1118, found 274.1111.

reactant | anthranilic acid | 7.3 mmol, 1.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | o-fluoroaniline | 2 mL | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 1,2-dibromoethane | 3 mL | BrCCBr | C2H4Br2
solvent | water | O | H2O
product | 1-((2-Carboxyphenyl)amino)-2-((2-fluorophenyl)amino)ethane | 0.17 g, 9% | C(=O)(O)C1=C(C=CC=C1)NCCNC1=C(C=CC=C1)F | C15H15FN2O2
